US05348955
Step C: (S)-1-(tert-Butyloxycarbonyl)-4-(dipentylcarbamoyl)piperazine-2-carboxylic acid
A partial solution of 1.32 g (5.74 mmole) of (S)-1-(tert-butyloxycarbonyl)piperazine-2-carboxylic acid in 25 ml of dried DMF was treated dropwise over 5 min with 1.48 g (11.47 mmole of diisopropylethyl amine at 25° under nitrogen with stirring. The clear solution which resulted was treated dropwise over 15 min with a solution of 1.26 g (5.74 mmole) of dipentylcarbamoyl chloride in 5 ml of DMF and the mixture was stirred under nitrogen at 25° for 16 hr. The solution was concentrated in vacuo and the residue was dissolved in 100 ml of dichloromethane which was extracted with 2×100 ml of 0.5M citric acid and 2×25 ml of water. Without drying, the solution was concentrated in vacuo to 1.85g (78%) of medium yellow oil which was homogeneous by the (silica gel, 1:1:1:1 ethylacetate: n-butanol: acetic acid: water, Rf =0.50).

reactant | (S)-1-(tert-butyloxycarbonyl)piperazine-2-carboxylic acid | 5.74 mmole, 1.32 g | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)C(=O)O | C10H18N2O4
reactant | diisopropylethyl amine | 11.47 mmole | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dipentylcarbamoyl chloride | 5.74 mmole, 1.26 g | C(CCCC)N(C(=O)Cl)CCCCC | C11H22ClNO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-1-(tert-Butyloxycarbonyl)-4-(dipentylcarbamoyl)piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(N(CCCCC)CCCCC)=O)C(=O)O | C21H39N3O5
